US04622322
(b) 2-(2-(4-fluorobenzoylmethylthio)ethyl)-1,3-isoindoledione
0.803 kg (14.8M) sodium methoxide in 16 1 of ethanol is added to a stirred solution of 3.7 kg (14.8M) 2-(acetylthioethyl)-1,3-isoindoledione in 29.2 1 ethanol at 0° . The temperature is maintained between 0°-5° and the reaction mixture is stirred for one hour. 3.23 kg (14.8M) a-bromo-4-fluoroacetophenone in 14.6 1 of ethanol is added at such a rate to maintain the temperature between 0° and 10° . The reaction mixture is stirred overnight at room temperature. The product is collected by filtration, washed with ethanol and ether and dried. M.P. 123.5°-125.5°.

reactant | sodium methoxide | 14.8M, 0.803 kg | C[O-].[Na+]
reactant | 2-(acetylthioethyl)-1,3-isoindoledione | 14.8M, 3.7 kg | C(C)(=O)SCCN1C(C2=CC=CC=C2C1=O)=O | C12H11NO3S
reactant | a-bromo-4-fluoroacetophenone | 14.8M, 3.23 kg | C1=CC(=CC=C1C(=O)CBr)F | C8H6BrFO
solvent | ethanol | C(C)O | C2H6O
product | 2-(2-(4-fluorobenzoylmethylthio)ethyl)-1,3-isoindoledione | FC1=CC=C(C(=O)CSCCN2C(C3=CC=CC=C3C2=O)=O)C=C1 | C18H14FNO3S
